* C:\Users\Drew Maatman\Documents\KiCad Projects\Projects\Electronic_Display\hdw\Power_Board\Design_Files\POS5_Power_Supply\7851.asc
XU1 N015 NC_01 NC_02 NC_03 MP_04 NC_05 NC_06 NC_07 N015 N003 N003 N003 N015 NC_08 NC_09 NC_10 NC_11 NC_12 NC_13 N015 N003 N030 NC_14 N025 NC_15 N010 NC_16 NC_17 N031 N021 N028 OUT OUT N013 N021 N031 N030 NC_18 IN N030 N031 N021 N029 OUT OUT N014 N021 N031 NC_19 N026 NC_20 N011 NC_21 NC_22 NC_23 N008 N030 N016 0 LTC7851
R1 0 N008 51.1k
V1 N003 0 5.5
XU2 MP_24 MP_25 N007 N005 N012 0 N011 N003 N003 N004 LTC4449
D1 N003 N004 CMDSH2-3
M1 IN N007 N005 N005 Si4408DY
M2 N005 N012 0 0 Si4408DY
C1 N005 N004 .1µ
C2 OUT 0 100µ x20 Rser=70m Lser=1.2n
R3 OUT 0 0.111111
R5 N016 0 13.7k
C4 N016 N015 2.2n Rser=6.04K Cpar=100p
C5 0 N021 100p
XU3 MP_26 MP_27 N006 N001 N009 0 N010 N003 N003 N002 LTC4449
D2 N003 N002 CMDSH2-3
M3 IN N006 N001 N001 Si4408DY
M4 N001 N009 0 0 Si4408DY
C6 N001 N002 .1µ
XU4 MP_28 MP_29 N022 N017 N024 0 N025 N003 N003 N018 LTC4449
D3 N003 N018 CMDSH2-3
M5 IN N022 N017 N017 Si4408DY
M6 N017 N024 0 0 Si4408DY
C8 N017 N018 .1µ
XU5 MP_30 MP_31 N023 N020 N027 0 N026 N003 N003 N019 LTC4449
D4 N003 N019 CMDSH2-3
M7 IN N023 N020 N020 Si4408DY
M8 N020 N027 0 0 Si4408DY
C10 N020 N019 .1µ
R8 N031 0 59k
V2 IN 0 12
R9 OUT N016 100k
C3 OUT N016 3.3n Rser=332
C12 N014 OUT .22µ
C13 N029 OUT .22µ
L2 N001 OUT 1µH Rser=.3m Rser=2.3m
C14 N013 OUT .22µ
R10 N028 N017 1.96k
C7 N028 OUT .22µ
R6 N029 N020 1.96k
R11 N014 N005 1.96k
R2 N013 N001 1.96k
L1 N017 OUT 1µH Rser=.3m Rser=2.3m
L3 OUT N005 1µH Rser=.3m Rser=2.3m
L4 OUT N020 1µH Rser=.3m Rser=2.3m
C9 OUT 0 100µ x8 Rser=2m Lser=1.27n
.model D D
.lib C:\Users\Drew Maatman\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Drew Maatman\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10m startup
.lib LTC4449.sub
.lib LTC7851.sub
.backanno
.end
